### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): characterize ideals in matrix rings

### PR DESCRIPTION
**Pull request by Vtec234**
- Define left and two-sided ideals in a matrix ring.
- Show that two-sided matrix ideals are order-isomorphic to two-sided ideals in the base ring.
  This code is taken from FLT, from [here](https://github.com/ImperialCollegeLondon/FLT/blob/daac491a4fa817ec39595e0a5ce2240ceed940fc/FLT/for_mathlib/CrazySimple.lean).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 1]
```diff
@@ -0,0 +1,188 @@
+/-
```
Comment (Vtec234) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:1]: This file could also be `Mathlib.RingTheory.MatrixRing` or similar. If there are no desiderata I am unaware of, the present location seems fine.

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+    intro k _
+    apply I.mul_mem_left _ (hN k j)
+
+@[simp]
+theorem mem_matricesOver (I : Ideal R) (M : Matrix n n R) :
+    M ∈ I.matricesOver n ↔ ∀ i j, M i j ∈ I := by rfl
+
+def matricesOver_mono {I J : Ideal (Matrix n n R)} :
+    I ≤ J → I.matricesOver n ≤ J.matricesOver n :=
+  fun IJ _ MI i j => IJ (MI i j)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:47]: Can you state this with `Monotone`? Presumably it's `StrictMono` if `Nonempty n`?

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 3]
```diff
@@ -0,0 +1,188 @@
...
+/--
+Two-sided ideals in `R` correspond bijectively to those in `Mₙ(R)`.
+Given an ideal `I ≤ R`, we send it to `Mₙ(I)`.
+Given an ideal `J ≤ Mₙ(R)`, we send it to `{x₀₀ | x ∈ J}`.
+-/
+@[simps]
+def equivMatricesOver (o : n) : TwoSidedIdeal R ≃ TwoSidedIdeal (Matrix n n R) where
+  toFun I := I.matricesOver n
+  invFun J := TwoSidedIdeal.mk'
+    { x : R | ∃ N ∈ J, x = N o o }
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:124]: Does this proof rely on this being `N o o`, or would `N i j` work too?

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 4]
```diff
@@ -0,0 +1,188 @@
...
+  map_rel_iff' := @fun I J => by
+    simp only [equivMatricesOver_apply]
+    constructor
+    · intro le x xI
+      specialize @le (of fun _ _ => x) (by simp [xI])
+      letI : Inhabited n := ⟨o⟩
+      simpa using le
+    · intro IJ M MI i j
+      exact IJ <| MI i j
+}
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:186]:
```suggestion
def orderIsoMatricesOver (o : n) : TwoSidedIdeal R ≃o TwoSidedIdeal (Matrix n n R) where
  __ := equivMatricesOver o
  map_rel_iff' {I J} := by
    simp only [equivMatricesOver_apply]
    constructor
    · intro le x xI
      specialize @le (of fun _ _ => x) (by simp [xI])
      letI : Inhabited n := ⟨o⟩
      simpa using le
    · intro IJ M MI i j
      exact IJ <| MI i j
```
or similar

**Comment by alreadydone** [comment]
Probably "characterize ideals in matrix rings" would be a better title

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean (hunk 3 above)
Comment (Vtec234) [reply Mathlib/LinearAlgebra/Matrix/Ideal.lean:124]: Any `i j` can work. Certainly the underlying construction of moving a particular entry to a specified position by multiplying with basis matrices is useful, though I'm not sure how useful it is when wrapped in this equivalence. Nevertheless I generalized it.

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean (hunk 4 above)
Comment (Vtec234) [reply Mathlib/LinearAlgebra/Matrix/Ideal.lean]: I saw the `__ :=` elsewhere, but there is no hover-docstring so I don't know why this is preferrable. Could you point me to some documentation?

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean (hunk 2 above)
Comment (Vtec234) [reply Mathlib/LinearAlgebra/Matrix/Ideal.lean]: Done (yeah it's `StrictMono`). Another way to do this would be to bundle `matricesOver` as an order hom, like [TwoSidedIdeal.asIdeal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/TwoSidedIdeal/Operations.html#TwoSidedIdeal.asIdeal). I don't like this as much because dot notation no longer works, and there is a [CanLift instance](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/Hom/Basic.html#OrderHom.canLift) for maps that are known to be Monotone. But maybe there is something we lose by unbundling? Also if one is to bundle, I feel like it should be bundled as the strongest possible structure. It should at least be a `BotTopHom` (except that doesn't exist).

**Comment by Vtec234** [comment]
> Probably "characterize ideals in matrix rings" would be a better title

Changed, though this PR does not characterize left ideals.

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Ideal.lean]: This is just a style concern; `__` is semanticaly identical to `with`, but in general `where` notation is preferred for structures where possible.

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 5]
```diff
@@ -0,0 +1,215 @@
...
+theorem asIdeal_matricesOver [DecidableEq n] (I : TwoSidedIdeal R) :
+    asIdeal (I.matricesOver n) = (asIdeal I).matricesOver n := by
+  ext; simp
+
+variable {n : Type*} [Fintype n] [DecidableEq n]
+
+/--
+Two-sided ideals in `R` correspond bijectively to those in `Mₙ(R)`.
+Given an ideal `I ≤ R`, we send it to `Mₙ(I)`.
+Given an ideal `J ≤ Mₙ(R)`, we send it to `{Nᵢⱼ | ∃ N ∈ J}`.
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:142]: As a general comment, I'd recommend using `$Mₙ(R)$` for anything that isn't actually valid lean notation, since that will render more nicely in the docs, and avoid any confusion about why code in docstrings doesn't actually work.

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 6]
```diff
@@ -0,0 +1,215 @@
...
+  fun I J IJ => by
+    refine lt_of_le_of_ne (matricesOver_monotone n IJ.le) fun eq => ?_
+    have ⟨x, xJ, xI⟩ : ∃ x ∈ J, x ∉ I := Set.exists_of_ssubset IJ
+    simp only [SetLike.mem_coe] at xI xJ
+    let M : Matrix n n R := fun _ _ => x
+    have : M ∈ J.matricesOver n := by simp [M, xJ]
+    have : M ∉ I.matricesOver n := by
+      simp only [mem_matricesOver, not_forall]
+      use h.some, h.some
+    simp [*] at *
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:59]:
```suggestion
theorem matricesOver_strictMono_of_nonempty [Nonempty n] :
    StrictMono (matricesOver (R := R) n) :=
  matricesOver_monotone n |>.strictMono_of_injective <| fun I J eq => by
    ext x
    have : (∀ _ _, x ∈ I) ↔ (∀ _ _, x ∈ J) := congr((Matrix.of fun _ _ => x) ∈ $eq)
    simpa only [forall_const] using this
```

File: Mathlib/LinearAlgebra/Matrix/Ideal.lean [hunk 7]
```diff
@@ -0,0 +1,203 @@
...
+/--
+Two-sided ideals in $R$ correspond bijectively to those in $Mₙ(R)$.
+Given an ideal $I ≤ R$, we send it to $Mₙ(I)$.
+Given an ideal $J ≤ Mₙ(R)$, we send it to $\{Nᵢⱼ ∣ ∃ N ∈ J\}$.
+-/
+@[simps]
+def equivMatricesOver (i j : n) : TwoSidedIdeal R ≃ TwoSidedIdeal (Matrix n n R) where
+  toFun I := I.matricesOver n
+  invFun J := TwoSidedIdeal.mk'
+    { x : R | ∃ N ∈ J, x = N i j }
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Ideal.lean:136]: I think the following syntax should also work
```suggestion
    { N i j | N ∈ J }
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
